US06583133B1
To an ice-cold solution of 5.61 g of 1,4-diaza-bicyclo[2.2.2]octane in 50 ml of N,N-dimethylacetamide were added 7.33 ml of tert-butyl 2-bromo-acetate. The solution was stirred for 4 h at 20° and then, 0.5 l of ethyl acetate and 0.3 l of diethyl ether were added. The precipitate formed was isolated by filtration, washed thoroughly with 0.5 l of ethyl acetate and dried to give 14.7 g of 1-tert-butoxycarbonylmethyl-4-aza-1-azonia-bicyclo[2.2.2]octane bromide as white crystals.

reactant | 1,4-diaza-bicyclo[2.2.2]octane | 5.61 g | N12CCN(CC1)CC2 | C6H12N2
reactant | tert-butyl 2-bromo-acetate | 7.33 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl acetate | 0.5 l | C(C)(=O)OCC | C4H8O2
reactant | diethyl ether | 0.3 l | C(C)OCC | C4H10O
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 1-tert-butoxycarbonylmethyl-4-aza-1-azonia-bicyclo[2.2.2]octane bromide | 14.7 g | [Br-].C(C)(C)(C)OC(=O)C[N+]12CCN(CC1)CC2 | InChI=1S/C12H23N2O2.BrH/c1-12(2,3)16-11(15)10-14-7-4-13(5-8-14)6-9-14;/h4-10H2,1-3H3;1H/q+1;/p-1
